US07772226B2
(b) 1-Benzyl-7-dimethylamino-5-methyl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one
A 2 ml aqueous solution of 50% dimethylamine was added to a 2 ml ethanol solution of 0.138 g of 1-benzyl-7-chloro-5-methyl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one, and the mixture was heated at 130° C. for 72 hours. The reaction solution was cooled to room temperature, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 0.139 g of the title compound was obtained from the fraction eluted with methanol-ethyl acetate (1:19).

reactant | dimethylamine | CNC | C2H7N
reactant | 1-benzyl-7-chloro-5-methyl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one | 0.138 g | C(C1=CC=CC=C1)N1C=NC2=C1C(=NN(C2=O)C)Cl | C13H11ClN4O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 1-Benzyl-7-dimethylamino-5-methyl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one | 0.139 g | C(C1=CC=CC=C1)N1C=NC2=C1C(=NN(C2=O)C)N(C)C | C15H17N5O
